US08420816B2
(R)-4-(1-(3-(difluoromethyl)azetidin-1-yl)-3-methyl-1-oxobutan-2-yl)-6-fluoro-4,5-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-3(1H)-one
(R)-2-(6-Fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid (15 mg, 0.051 mmol), HOBt hydrate (9.46 mg, 0.062 mmol), and EDC hydrochloride (14.81 mg, 0.077 mmol) were combined in DMF (2 mL). 3-(Difluoromethyl)azetidine (8.27 mg, 0.077 mmol) and 4-methylmorpholine (0.023 mL, 0.206 mmol) were added, and the reaction mixture was stirred at room temperature for 2 h. The product was purified by preparative HPLC (10-60% AcCN/H2O with 0.035% TFA), concentrated in vacuo, and lyophilized to afford the title compound as a white solid (9.8 mg, 50%). 1H NMR (500 MHz, DMSO-d6) δ 0.78 (d, J=6.0 Hz, 3H), 0.94 (d, J=6.0 Hz, 3H), 2.31-2.39 (m, 1H), 2.99-3.15 (m, 1H), 3.77-4.35 (m, 4H), 4.82-5.11 (m, 3H), 6.10-6.41(m, 1H), 7.98 (d, J=2.5 Hz, 1H), 8.24 (d, J=2.5 Hz, 1H), 12.39 (s, 1H). [M+H] calc'd for C18H19F3N4O2, 381; found, 381.

reactant | (R)-2-(6-Fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid | 0.051 mmol, 15 mg | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)C)=O)=CN2 | C14H14FN3O3
reactant | HOBt hydrate | 0.062 mmol, 9.46 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC hydrochloride | 0.077 mmol, 14.81 mg | CCN=C=NCCCN(C)C.Cl
reactant | 3-(Difluoromethyl)azetidine | 0.077 mmol, 8.27 mg | FC(C1CNC1)F | C4H7F2N
reactant | 4-methylmorpholine | 0.206 mmol, 0.023 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-4-(1-(3-(difluoromethyl)azetidin-1-yl)-3-methyl-1-oxobutan-2-yl)-6-fluoro-4,5-dihydropyrrolo[4,3,2-de][2,6]naphthyridin-3(1H)-one | 9.8 mg, 50% | FC(C1CN(C1)C([C@@H](C(C)C)N1CC=2C(=CN=C3C2C(C1=O)=CN3)F)=O)F | C18H19F3N4O2
